US05186985
Preparation of 3-(Perfluorodecyl)propylamine
A one liter Hastelloy pressure vessel was charged with 126.1 g (0.22 mol) of 3-(perfluorodecyl)propionitrile (Du Pont), 20 g of Rainey cobalt, 50 g of anhydrous ammonia and 300 mL of tetrahydrofuran. The vessel was pressured to 800 psi with hydrogen and heated to 110° C. The hydrogen pressure was adjusted to 1500 psi and maintained for 20 hours. The vessel was cooled to room temperature and vented. The solution was decanted and the reaction vessel was rinsed with tetrahydrofuran. The combined solutions were filtered through Celite® and concentrated on a rotary evaporator at 50° C. The product was distilled through a Vigreux column to give 119.8 g of product, bp 78-80° C. at 1.2 mm as a waxy solid which melted at 53-55° C. The product was redistilled through an 8 in. Vigreux column to give 107.7 g of a center cut, bp 70° C. at 1.8 mm.

reactant | 3-(perfluorodecyl)propionitrile | 0.22 mol, 126.1 g | FC(C(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(CCC#N)F | C13H4F21N
reactant | ammonia | 50 g | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | cobalt | [Co] | Co
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 3-(Perfluorodecyl)propylamine | 119.8 g | FC(C(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(CCCN)F | C13H8F21N
